US05250517
Isobutoxycarbonyl-L-phenylalanine
Treatment of L-phenylalanine with isobutyl chloroformate in a manner analogous to that described above, yielded yielded the desired acid as an oil [MS: 266 (M+H)+ ] which crystallized out upon standing and which was used directly in the next step.

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | Isobutoxycarbonyl-L-phenylalanine | C(C(C)C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
